US06063782
A solution of 0.15 g (0.00052 mole) of methyl 1-(2-bromoethyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate and 0.08 g (0.00052 mole) of 1,8-diazabicyclo[5.4.0]undec-7-ene dissolved in 2 ml of tetrahydrofuran was heated under reflux for 6 hours. The reaction mixture was allowed to cool at room temperature and purified by column chromatography through silica gel using a 9:1 mixture of toluene and ethyl acetate as an eluent to give 0.080 g (74% yield) of methyl 3-formyl-4,5-dimethyl-1-vinylpyrrole-2-carboxylate as pale yellow crystals.

reactant | methyl 1-(2-bromoethyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | 0.00052 mole, 0.15 g | BrCCN1C(=C(C(=C1C)C)C=O)C(=O)OC | C11H14BrNO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.00052 mole, 0.08 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | methyl 3-formyl-4,5-dimethyl-1-vinylpyrrole-2-carboxylate | 0.080 g, 74% yield | C(=O)C1=C(N(C(=C1C)C)C=C)C(=O)OC | C11H13NO3
